Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left arm and leg weakness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ Stroke Scale Score: 4

t-PA administered: 
[] Yes - Time given: __
[x] No - Reason t-PA was not given or considered: >24 hours from
last known well

Thrombectomy performed: 
[] Yes 
[x] No - Reason not performed or considered: >24 hours from last
known well; NIHSS <6

NIHSS performed within 6 hours of presentation at: ___ 11:15
NIHSS Total: 4
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 0
5a. Motor arm, left: 1
5b. Motor arm, right: 0
6a. Motor leg, left: 1
6b. Motor leg, right: 0
7.  Limb Ataxia: 2
8.  Sensory: 0
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0
 

Reason for consultation: left arm and leg weakness
 
History of Present Illness: 
Mr ___ is a ___ year old left-handed man with a history of
depression/anxiety who presents to the ED with complaints of 
left
arm and leg weakness since yesterday morning. 

He states that when he went to bed two days ago (___) he was
feeling well without any appreciable weakness. He awoke 
yesterday
(___) at approximately 6am and noticed a cramping pain in his
left calf. He attributed this to a ___ horse" and the pain
went away in a minute or less. He went to stand up to stretch 
his
calf. However, upon standing, he noted that his left leg seemed
very weak and "gave out" on him. He states he was unable to lift
the hip off the ground. He tried to brace himself against the
wall with his left hand, but when he did so, his left arm
collapsed in a similar manner to the leg. He was able to get
himself back to bed by supporting himself against the wall, and
did not fall. He thought that something could be wrong with the
muscles in his arm and leg, so he spent the rest of the day in
bed in order to rest. He does note that he tried to get up a few
times throughout the day and had similar weakness. While he was
in bed he states that his left leg was so weak that he had to
physically pick it up with his arms to move it. 

He awoke this morning with ongoing weakness on the left side.
However, he felt that the weakness had improved somewhat. He was
able to get out of bed and stand with minimal support against 
the
wall. He continued to feel "off balance" and as if his gait were
very unsteady. He called his PCP, who recommended he come to the
ED for evaluation.

Review of systems is notable only for an episode two weeks ago 
of
numbness, described as pins and needles, in the right hand which
he experienced upon awakening two weeks ago. This feeling lasted
for a few hours and then went away. He did not seek medical
attention at that time. 
 
Review of Systems: 
On neurological review of systems, the patient denies headache,
confusion, difficulties producing or comprehending speech, loss
of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. No
bowel or bladder incontinence or retention. 
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.

 
Past Medical History:
None
 
Social History:
___
Family History:
Mom- stroke in her ___, colon cancer
 
Physical Exam:
ON ADMISSION:
===============
Vitals: 24 HR Data (last updated ___ @ 1121)
    Temp: 98.1 (Tm 98.8), BP: 142/87 (127-157/83-103), HR: 77
(57-77), RR: 20 (___), O2 sat: 100% (99-100), O2 delivery: Ra  

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic:

-Mental Status: Alert, oriented x 3. Attentive to exam. Language
is fluent with no paraphasic errors. Able to follow both midline
and appendicular commands. 

-Cranial Nerves: PERRL 3->2.  EOMI without nystagmus. Facial
sensation intact to light touch. Subtle decreased movement of L
face with speech, full activation with smile. Hearing intact to
conversation.  No dysarthria. 

-Motor: Normal bulk, tone throughout. L pronator drift.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc          
L  5    ___   ___  4+  5    4+ 4     5           
R  5    ___   ___  5   5    5  5     5                

-Sensory: Intact to LT throughout. Subtle decreased sensation
LUE, intact graphesthesia L palm. 

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Adductors
 L  2  2    2    2   2                     
 R  2+ 2    2+   2+  2                     

-Coordination: Dysmetria of LUE, LLE that appears somewhat out 
of
proportion to confrontational strength. 

===============
ON DISCHARGE:
Exam most notable for 4+ strength in left IP, hamstring, and TA. 
Notable dysmetria on left finger to nose and heel knee shin.
 
Pertinent Results:
LABS:

___ 04:25AM BLOOD WBC-7.6 RBC-4.47* Hgb-13.2* Hct-40.3 
MCV-90 MCH-29.5 MCHC-32.8 RDW-13.2 RDWSD-43.6 Plt ___
___ 04:25AM BLOOD Plt ___
___ 04:25AM BLOOD ___
___ 04:25AM BLOOD Glucose-89 UreaN-10 Creat-0.6 Na-140 
K-4.6 Cl-102 HCO3-28 AnGap-10
___ 11:10AM BLOOD ALT-97* AST-122* CK(CPK)-386* AlkPhos-69 
TotBili-0.7
___ 01:25PM BLOOD D-Dimer-247
___ 01:32PM BLOOD %HbA1c-5.2 eAG-103
___ 10:50AM BLOOD TSH-2.6
___ 11:10AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING:
___ TTE:
CONCLUSION:
The left atrium is normal in size. There is no evidence of an 
atrial septal defect or patent foramen ovale by
2D/color Doppler or agitated saline at rest and with maneuvers. 
The right atrial pressure could not be
estimated. There is mild symmetric left ventricular hypertrophy 
with a normal cavity size. There is normal
regional left ventricular systolic function. Overall left 
ventricular systolic function is low normal. Quantitative
biplane left ventricular ejection fraction is 62 %. The visually 
estimated left ventricular ejection fraction is
60-65%. There is no resting left ventricular outflow tract 
gradient. No ventricular septal defect is seen. Normal
right ventricular cavity size with normal free wall motion. The 
aortic sinus is mildly dilated with normal
ascending aorta diameter for gender. The aortic arch diameter is 
normal with a normal descending aorta
diameter. There is no evidence for an aortic arch coarctation. 
The aortic valve leaflets (3) are mildly
thickened. There is no aortic valve stenosis. There is mild [1+] 
aortic regurgitation. The mitral valve leaflets
appear structurally normal with no mitral valve prolapse. There 
is mild [1+] mitral regurgitation. The tricuspid
valve leaflets appear structurally normal. There is trivial 
tricuspid regurgitation. The estimated pulmonary
artery systolic pressure is normal. There is no pericardial 
effusion.
IMPRESSION: No structural cardiac source of embolism (e.g.patent 
foramen ovale/atrial septal defect,
intracardiac thrombus, or vegetation) seen. Mild symmetric left 
ventricular hypertrophy with normal cavity
size and regional/global biventricular systolic function. Mild 
mitral regurgitation. Mild aortic regurgitation.

==============
MR ___
FINDINGS:  
  
There is an area of restricted diffusion centered at the 
posterior limb of the 
right internal capsule and corona radiata with matching T2 and 
FLAIR 
hyperintensity compatible with an acute infarct.  No additional 
areas of 
infarct.  Ventricles and sulci are symmetric and unremarkable.  
No additional 
parenchymal signal abnormality, no abnormal susceptibility 
artifact.  Major 
intravascular flow voids are preserved. 
  
Mild mucosal thickening noted in the ethmoid air cells, more so 
on the right.  
No abnormal signal in the remaining paranasal sinuses. 
  
IMPRESSION:  
  
Acute infarct of the right corona radiata and posterior limb of 
the internal capsule. 

============
CTA Head and Neck:
IMPRESSION: 
1. Hypodensities suggesting late acute infarct of the right 
posterior limb of the internal capsule and right corona radiata, 
better evaluated on subsequent MR. 
2. No evidence of internal carotid stenosis by NASCET criteria.  
No stenosis, occlusion, or aneurysmal formation of the 
intracranial vessels. 
  

  

 
Brief Hospital Course:
Outpatient Providers: Mr ___ is a ___ year old left handed man 
who is a current smoker and drinks ___ beers daily, who 
presented to the ED with complaints of one day of left 
sidedweakness. Although his weakness has now improved, he feels 
very
unsteady on his feet. Neurologic examination on admission 
notable for left pronator drift and upper motor neuron pattern 
weakness in the left leg, as well as significant dysmetria and 
ataxia in the left arm and leg.

MRI shows acute infarction in the right corona radiata and 
posterior limb of the internal capsule. Etiology most likely 
small vessel disease given
risk factors for small vessel disease and distribution. However,
cardioembolic still possible. Atheroembolic less likely given
mild atherosclerotic changes on CTA. Hypercoagulability also
possible. D-dimer normal and hyper coag workup is pending. TTE 
did not show structural or embolic source of CVA. Patient's left 
sided strength improved throughout hospital stay and patient 
discharged home with rolling walker and outpatient physical 
therapy.

# Acute Ischemic infarct
- TSH: 2.6, LDL: 56, A1c:5.2
- Started ASA 81 daily
- ___ outpatient, rolling walker for ambulation
- Follow up with neurology 
- Will need hypercoag workup to be followed up as outpatient: 
anti-caridolipin, lupus anticoagulant, beta-2 glycoprotein
- BP mainly w/SBPs in 140s and LVH seen on ECHO. No medications 
started in hospital, patient will need to follow up with PCP for 
further monitoring and management
- Holter monitor to be delivered as outpatient
- Patient reports he is no longer going stop smoking and 
declines nicotine patches. He is going to cut back on alcohol 
consumption. 

======================================
TRANSITIONAL ISSUES:
[]Follow up with neurology in 3 months. An appointment has been 
requested for you, if you don't hear back in 2 weeks, call 
___ for an appointment.
-Follow up hypercoag results
-Follow up holter
[]Please follow up with your primary care physician in the next 
2 weeks. The ECHO of your heart shows signs you most likely have 
high blood pressure which needs to be monitored
- You will need a holter monitor to monitor your heart rhythm 
over the next 2 weeks. If you do not receive a call within ___ 
days to set this up as an outpatient, call ___.

======================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 87) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? () Yes - (x) No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3 
2.Outpatient Physical Therapy
3.rolling walker
diagnosis: acute infarct
prognosis: fair
length of need: 12 months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of left sided weakness and 
tingling in your left hand resulting from an ACUTE ISCHEMIC 
STROKE, a condition where a blood vessel providing oxygen and 
nutrients to the ___ is blocked by a clot. The ___ is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the ___ from being deprived of its 
blood supply can result in a variety of symptoms. 

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

- Smoking cigarettes
- Drinking alcohol
- Concern for high blood pressure

We are changing your medications as follows:  
- Start taking Aspirin 81 mg daily
- You will need a holter monitor to monitor your heart rhythm 
over the next 2 weeks. If you do not receive a call within ___ 
days to set this up as an outpatient, call ___.

We also request that you continue building your strength with 
outpatient physical therapy

Please follow up with Neurology and your primary care physician 
as listed below.
  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 

It was a pleasure taking care of you!
 
Sincerely,  
Your ___ Neurology Team  
 
Followup Instructions:
___